US03975540
4.68 G. of 2-carbomethoxy-5-oxo-5H-dibenzo[a,d] cycloheptane is refluxed in 100 ml. of carbon tetrachloride containing 3.56 g. (1 eq.) of N-bromosuccinimide while being irradiated with a 100 watt incandescent lamp. After 2 hrs. the solution is cooled, filtered and evaporated to dryness. The residue is dissolved in 30 ml. of dimethylformamide and 2.48 g. (1 eq.) of diazabicylononene is added. The mixture is heated briefly to 60° C, and water and ethyl acetate are added. The organic layer is washed with dilute hydrochloric acid and water, then dried and evaporated to give 2-carbomethoxy-5-oxo-5H-dibenzo[a,d]cycloheptene. Hydrolysis in eight to one aqueous methanol, 5% potassium hydroxide, followed by acidification with dilute hydrochloric acid yields 5-oxo-5H-dibenzo[a,d] -cycloheptene-2-carboxylic acid (m.p. 261°-262°C).

reactant | carbon tetrachloride | 3.56 g | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | N-bromosuccinimide | 1 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | diazabicylononene | 1 eq. | C1(=NNCCCCCC1)C1=CCCCCCCC1 | C16H28N2
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-carbomethoxy-5-oxo-5H-dibenzo[a,d]cycloheptene | C(=O)(OC)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C17H12O3
